US04724236
5,11-Dihydro-11-[1-oxo-2-methyl-6-(4-methyl-1-piperazinyl)-4-hexynyl]-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one
A reaction mixture consisting of 36.6 g (0.12 mol) of 5,11-dihydro-11-[1-oxo-2-methyl-4-pentynyl]-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one, 4 g (0.13 mol) of paraformaldehyde, 13.2 g (0.13 mol) of N-methylpiperazine, 0.2 g of copper(I) chloride and 600 ml of dioxan is refluxed for 2 hours. After the reaction has ended the mixture is filtered over activated charcoal to remove the insoluble components and the filtrate is evaporated to dryness in vacuo. In order to purify it, the crude product is suspended in a solution of 15.4 g (0.13 mol) of maleic acid in 600 ml of water and stirred for 1 hour at ambient temperature. The insoluble matter is filtered off, the filtrate is made alkaline by the addition of potassium carbonate and the resin precipitated is taken up in 600 ml of methylene chloride. After drying over magnesium sulphate, the solution is evaporated to dryness in vacuo. The crystalline residue is decocted with 150 ml of ethyl acetate and suction filtered after cooling. By digesting it in a little ethyl acetate a crystalline product is obtained which melts at 212° to 214° C. after washing with ether.

reactant | 5,11-dihydro-11-[1-oxo-2-methyl-4-pentynyl]-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one | 0.12 mol, 36.6 g | O=C(C(CC#C)C)N1C2=C(NC(C3=C1C=CC=C3)=O)C=CC=N2 | C18H15N3O2
reactant | paraformaldehyde | 0.13 mol, 4 g | C=O | CH2O
reactant | N-methylpiperazine | 0.13 mol, 13.2 g | CN1CCNCC1 | C5H12N2
reactant | maleic acid | 0.13 mol, 15.4 g | C(\C=C/C(=O)O)(=O)O | C4H4O4
solvent | water | 600 ml | O | H2O
catalyst | copper(I) chloride | 0.2 g | [Cu]Cl
solvent | dioxan | 600 ml | O1CCOCC1 | C4H8O2
product | 5,11-Dihydro-11-[1-oxo-2-methyl-6-(4-methyl-1-piperazinyl)-4-hexynyl]-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one | O=C(C(CC#CCN1CCN(CC1)C)C)N1C2=C(NC(C3=C1C=CC=C3)=O)C=CC=N2 | C24H27N5O2
